US08168815B2
To a stirred solution of diethyl[(6-bromo-2-cyanoquinolin-7-yl)(difluoro)methyl]phosphonate (370 mg, 0.883 mmol) in dichloromethane (9) at 0° C. was added dropwise bromotrimethylsilane (1.15 mL, 8.83 mmol). The reaction mixture was stirred at room temperature overnight. It was concentrated to dryness, and co-evaporated with dichloromethane (2×). Ethanol (5 mL) was added to the residue, which was stirred for 20 minutes. It was concentrated to dryness and co-evaporated with ethanol (2×). The residue was dissolved in methanol (8 mL) and 2.0 M ammonia in methanol (4.4 mL, 8.80 mmol) was added dropwise. It was stirred for 20 minutes, concentrated to dryness and suspended in diethyl ether. The precipitate was filtered to afford diammonium[(6-bromo-2-cyanoquinolin-7-yl)(difluoro)methyl]phosphonate.

reactant | diethyl[(6-bromo-2-cyanoquinolin-7-yl)(difluoro)methyl]phosphonate | 0.883 mmol, 370 mg | C(C)OP(OCC)(=O)C(F)(F)C1=C(C=C2C=CC(=NC2=C1)C#N)Br | C15H14BrF2N2O3P
reactant | bromotrimethylsilane | 8.83 mmol, 1.15 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | ammonia | 2.0 M | N | H3N
reactant | methanol | 8.80 mmol, 4.4 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | diammonium[(6-bromo-2-cyanoquinolin-7-yl)(difluoro)methyl]phosphonate | BrC=1C=C2C=CC(=NC2=CC1C(F)(F)P([O-])([O-])=O)C#N.[NH4+].[NH4+] | InChI=1S/C11H6BrF2N2O3P.2H3N/c12-9-3-6-1-2-7(5-15)16-10(6)4-8(9)11(13,14)20(17,18)19;;/h1-4H,(H2,17,18,19);2*1H3
